US04833164
Diethyl 4-(1-hydroxy-2-naphthyl)butylphosphonate
A solution of diethyl 4-(1-methoxy-2-naphthyl)butylphosphonate (5.50 g, 0.016 mole) in methylene chloride (80 mL) was stirred at -78°, and treated with boron tribromide (1.0M in methylene chloride; 24.0 mL, 0.024 mole) over 20 minutes. Stirring was continued for 2 hours at this temperature, then at room temperature for 16 hours. Water (80 mL) was added, and the mixture was extracted with ether. The organic layer was extracted with 1.0N aqueous sodium hydroxide, the aqueous layer was acidified with concentrated hydrochloric acid, and the crude product was isolated from this by extraction with ether. The residue was recrystallized (hexane) to provide the title compound (2.10 g, 40%) as a white solid, mp 90°-91°.

reactant | diethyl 4-(1-methoxy-2-naphthyl)butylphosphonate | 0.016 mole, 5.50 g | COC1=C(C=CC2=CC=CC=C12)CCCCP(OCC)(OCC)=O | C19H27O4P
reactant | boron tribromide | 0.024 mole, 1.0M, 24.0 mL | B(Br)(Br)Br | BBr3
reactant | Water | 80 mL | O | H2O
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | Diethyl 4-(1-hydroxy-2-naphthyl)butylphosphonate | 2.10 g, 40% | OC1=C(C=CC2=CC=CC=C12)CCCCP(OCC)(OCC)=O | C18H25O4P
